US07235574B2
ii) 4-{4-[2-(2-Hydroxyethyl)-imidazol-1-yl]-butyl}-phenol
2.40 g (8.75 mmol) 2-{1-[4-(4-methoxy-phenyl)-butyl]-1H-imidazol-2-yl}-ethanol and 9 ml (81 mmol) 48% aqueous hydrobromic acid were stirred at 80° C. for 12 h. The mixture was cooled to 0° C., 23 ml 4 N NaOH added, extracted with toluene and the aqueous phase adjusted to pH=6.3 by addition of 1 N HCl. The resulting precipitate was isolated, washed twice with water and ethyl acetate and dried. 1.71 g (75%) yellow crystals.

reactant | 2-{1-[4-(4-methoxy-phenyl)-butyl]-1H-imidazol-2-yl}-ethanol | 8.75 mmol, 2.40 g | COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C16H22N2O2
reactant | hydrobromic acid | 81 mmol, 9 ml | Br | BrH
reactant | NaOH | 4 N, 23 ml | [OH-].[Na+]
product | 4-{4-[2-(2-Hydroxyethyl)-imidazol-1-yl]-butyl}-phenol | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
